US08664226B2
Process 1: 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile (27 mg, 0.060 mmol), cyclohexanol (12 mg, 0.120 mmol) and triphenylphosphine (32 mg, 0.122 mmol) were dried for 3 hrs in vacuo, purged with argon, added 1,4-dioxane (1 mL) and diethyl azodicarboxylic acid (2.2 mol/L toluene solution, 70 μL, 0.154 mmol), and then stirred at 80° C. for 3 hrs. The reaction mixture was added water and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (chloroform:methanol=10:1) to obtain 4′-{{4-butyl-1-[5-(cyclohexyloxy)pyrimidin-2-yl]-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl}biphenyl-2-carbonitrile (18 mg, 56%).

reactant | 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | 0.060 mmol, 27 mg | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)O)C | C27H25N5O2
reactant | cyclohexanol | 0.120 mmol, 12 mg | C1(CCCCC1)O | C6H12O
reactant | triphenylphosphine | 0.122 mmol, 32 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylic acid | 0.154 mmol, 2.2 mol/L, 70 μL | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | water | O | H2O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4′-{{4-butyl-1-[5-(cyclohexyloxy)pyrimidin-2-yl]-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl}biphenyl-2-carbonitrile | 18 mg, 56% | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)OC1CCCCC1)C | C33H35N5O2
